US07355052B2
Stage 5: 2-[(4-acetylphenyl)amino]-1-{3-[(cyclohexylmethyl)amino]propyl}-N,N-bis(3-methylbutyl)-1H-benzimidazole-6-carboxamide dihydrochloride
A solution of 2-[(4-acetylphenyl)amino]-N,N-bis(3-methylbutyl)-1-(3-oxopropyl)-1H-benzimidazole-6-carboxamide (100 mg, 1 eq) and aminomethylcyclohexane (46 mg, 2 eq) is stirred for 4 hours at a temperature of approximately 20° C. The mixture is diluted with methanol (1 ml), then sodium triacetoxyborohydride (86 mg, 2 eq) and a few drops of acetic acid are added to produce a pH of 5. After 1 hour at a temperature of approximately 20° C., dichloromethane (20 ml) and water saturated with sodium hydrogen carbonate (10 ml) are added to the mixture. After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 then concentrated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: 100% dichloromethane to dichloromethane/methanol 9:1) produces the expected compound in the form of a base. The corresponding hydrochloride salt is formed by adding a 1N solution of hydrochloric acid in ether. The precipitate obtained is filtered and dried in order to produce the expected dihydrochloride compound (83 mg, 62% yield).

reactant | 2-[(4-acetylphenyl)amino]-N,N-bis(3-methylbutyl)-1-(3-oxopropyl)-1H-benzimidazole-6-carboxamide | 100 mg, 1 eq | C(C)(=O)C1=CC=C(C=C1)NC1=NC2=C(N1CCC=O)C=C(C=C2)C(=O)N(CCC(C)C)CCC(C)C | C29H38N4O3
reactant | aminomethylcyclohexane | 46 mg, 2 eq | NCC1CCCCC1 | C7H15N
reactant | sodium triacetoxyborohydride | 86 mg, 2 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-[(4-acetylphenyl)amino]-1-{3-[(cyclohexylmethyl)amino]propyl}-N,N-bis(3-methylbutyl)-1H-benzimidazole-6-carboxamide dihydrochloride | Cl.Cl.C(C)(=O)C1=CC=C(C=C1)NC1=NC2=C(N1CCCNCC1CCCCC1)C=C(C=C2)C(=O)N(CCC(C)C)CCC(C)C | InChI=1S/C36H53N5O2.2ClH/c1-26(2)18-22-40(23-19-27(3)4)35(43)31-14-17-33-34(24-31)41(21-9-20-37-25-29-10-7-6-8-11-29)36(39-33)38-32-15-12-30(13-16-32)28(5)42;;/h12-17,24,26-27,29,37H,6-11,18-23,25H2,1-5H3,(H,38,39);2*1H
